US07691882B2
4-(2-(Tetrahydrofuran-2-yl)-ethyl)-(2-nitro-ethyl)-benzene
To a mixed tetrahydrofuran-dimethyl sulfoxide (1:1, 10 mL) solution of 4-(2-(tetrahydrofuran-2-yl)-ethyl)-((E)-2-nitro-vinyl)-benzene (646 mg, 2.61 mmol) described in Manufacturing Example 82-1-4 and acetic acid (0.6 mL) was added sodium borohydride (148 mg, 3.92 mmol) at room temperature while cooling appropriately under nitrogen atmosphere, which was stirred for 10 minutes at room temperature. Water was added dropwise into the reaction mixture at room temperature while cooling appropriately. The reaction mixture was partitioned into water and ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH-silica gel column chromatography (ethyl acetate:heptane=2:8) to obtain the title compound (421 mg, 65%).

reactant | tetrahydrofuran dimethyl sulfoxide | 10 mL | O1CCCC1.CS(=O)C
reactant | 4-(2-(tetrahydrofuran-2-yl)-ethyl)-((E)-2-nitro-vinyl)-benzene | 2.61 mmol, 646 mg | O1C(CCC1)CCC1=CC=C(C=C1)\C=C\[N+](=O)[O-] | C14H17NO3
reactant | acetic acid | 0.6 mL | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 3.92 mmol, 148 mg | [BH4-].[Na+]
solvent | Water | O | H2O
product | 4-(2-(Tetrahydrofuran-2-yl)-ethyl)-(2-nitro-ethyl)-benzene | 421 mg, 65% | O1C(CCC1)CCC1=CC=C(C=C1)CC[N+](=O)[O-] | C14H19NO3
